US05516788
cis-5,5a,6,10b-Tetrahydro-methylindeno[2.1-b]indole
A mixture of 0.6 g (0.00289 mol) of 5,5a, 6,10b-tetrahydroindeno[2,1-b]indole, 0.9 g (0.00723 mol) of K2CO3 and 1.03 g (0.00723 mol) of methyl iodide in 10 ml of acetonitrile was stirred for over the night at room temperature. The resulting mixture was filtered and evaporated. The resulting residue was dissolved in ether and then washed twice with water. Drying (Na2SO4) and evaporation gave 0.25 g (39%) of the title compound. 1H NMR (CDCl3) δ, 2.78 (3H, s), 3.2 (2H, d), 4.3 (1H, m) 4.66 (1H, d), 6.37 (1H, d), 6.68(1H, t), 7.06 (1H, t), 7.13-7.18 (2H, m),7.22-7.26 (1H, m) 7.3-7.37 (2H, m).

reactant | 5,5a, 6,10b-tetrahydroindeno[2,1-b]indole | 0.00289 mol, 0.6 g | C1=C2C3C(NC2=CC=C1)CC1=CC=CC=C13 | C15H13N
reactant | K2CO3 | 0.00723 mol, 0.9 g | C(=O)([O-])[O-].[K+].[K+]
reactant | methyl iodide | 0.00723 mol, 1.03 g | CI | CH3I
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | cis-5,5a,6,10b-Tetrahydro-methylindeno[2.1-b]indole | 0.25 g, 39% | CC1=C2[C@@H]3[C@H](NC2=CC=C1)CC1=CC=CC=C13 | C16H15N
